US06242443B1
7-Chloro-3-cyclopropylmethylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 2-amino-5-chlorobenzenesulfonamide and cyclopropylmethyl isothiocyanate by a method analogous to the one described in Example 4; m.p. 288-290° C. (ethyl acetate); 1H-NMR (DMSO-d6): δ 0.20-0.54 (m, 4H, CH2CH2), 1.05 (m, 1H, CH), 3.10 (distorted t, 1H, NHCH2), 7.22 (d, 1H, ArH), 7.31 (br., 1H, NH), 7.55-7.69 (m, 2H, ArH), 10.7 (br.s, 1H, NH); MS: m/e 285/287 (M+); (C11H12N3Cl1O2S1) calc. C, 46.24; H, 4.23; N, 14.71; found C, 46.48; H, 4.32; N, 14.72.

reactant | 2-amino-5-chlorobenzenesulfonamide | NC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | cyclopropylmethyl isothiocyanate | C1(CC1)CN=C=S | C5H7NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-3-cyclopropylmethylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NCC2CC2)C=C1 | C11H12ClN3O2S
